US07834008B2
(3,4-Difluorophenyl)acetic acid (52 g; 0.3 mol) was dissolved in N,N-dimethylformamid (200 mL). Potassium carbonate (61 g, 0.45 mol) was added and the mixture was stirred at room temperature (rt) for 15 min. Allyl bromide (47 g, 0.39 mol) was added and the suspension was stirred at room temperature for 20 h. The mixture was thrown into water (250 mL) and extracted with diethylether (2×300 mL). The combined organic phases were washed with water (4×100 mL), dried (Magnesium sulphate) and evaporated in vacuo to give 64 g (3,4-Difluoro-phenyl)acetic acid allyl ester as a clear oil.

reactant | (3,4-Difluorophenyl)acetic acid | 0.3 mol, 52 g | FC=1C=C(C=CC1F)CC(=O)O | C8H6F2O2
reactant | Potassium carbonate | 0.45 mol, 61 g | C([O-])([O-])=O.[K+].[K+]
reactant | Allyl bromide | 0.39 mol, 47 g | C(C=C)Br | C3H5Br
reactant | water | 250 mL | O | H2O
solvent | N,N-dimethylformamid | 200 mL | CN(C=O)C | C3H7NO
product | (3,4-Difluoro-phenyl)acetic acid allyl ester | 64 g | C(C=C)OC(CC1=CC(=C(C=C1)F)F)=O | C11H10F2O2
